US05032675
Into a 200 ml three-necked flask was charged 5.0 g (14.2 mmol) of Z-L-Ala-L-Gln, and the peptide was dissolved in 100 ml of a mixture of methanol and water (methanol:water =7:3) and stirred with a magnetic stirrer. After the air in the flask had been replaced with nitrogen, 0.8 g of 2% by weight of palladium-carbon was added thereto, and the protective group was eliminated in a stream of hydrogen. After 2 hours, the completion of the reaction was confirmed by thin layer chromatography, and then the palladium-carbon was filtered off. The filtrate was concentrated to 20 ml under reduced pressure, and 40 ml of isopropyl alcohol was added thereto. The resulting mixture was stirred for 30 minutes, during which time crystals precipitated. The crystals were collected by filtration, washed with isopropyl alcohol and then dried under reduced pressure to give 2.8 g (12.9 mmol) (90%) of L-Ala-L-Gln.

reactant | N-carbobenzoxy-L-alanyl-L-glutamine | 14.2 mmol, 5.0 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)O | C16H21N3O6
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
solvent | water | O | H2O
catalyst | palladium-carbon | [C].[Pd]
product | L-alanyl-L-glutamine | 12.9 mmol, 2.8 g, 90% | N[C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)O | C8H15N3O4
